US09085555B2
3-Acetyl-1-carboxymethyl-1H-indole-6-carboxylic acid methyl ester
was prepared from 3-acetyl-1H-indole-6-carboxylic acid methyl ester [106896-61-1] in a similar manner as described in step B and C of Scheme A13 for the preparation of (3-acetyl-5-trifluoromethoxy-indol-1-yl)-acetic acid. Colored solid. MS: 276 [M+H]+; tR (HPLC conditions k): 2.80 min.

reactant | 3-acetyl-1H-indole-6-carboxylic acid methyl ester | COC(=O)C1=CC=C2C(=CNC2=C1)C(C)=O | C12H11NO3
reactant | (3-acetyl-5-trifluoromethoxy-indol-1-yl)-acetic acid | C(C)(=O)C1=CN(C2=CC=C(C=C12)OC(F)(F)F)CC(=O)O | C13H10F3NO4
product | 3-Acetyl-1-carboxymethyl-1H-indole-6-carboxylic acid methyl ester | COC(=O)C1=CC=C2C(=CN(C2=C1)CC(=O)O)C(C)=O | C14H13NO5
